US08022063B2
4-Bromo-2-{3-[2-(4-chlorophenyl)-2-oxoethyl]-2,4-dioxothiazolidin-5-ylmethyl}phenoxyacetic acid.
Prepared from 2-bromo-1-(4-chlorophenyl)ethanone and 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester according to GP13, GP14 and GP16 (yield: 8.2 mg, 34%): LC/MS (an10p8): Rt 2.8 min, m/z 510 [M−H]−. 1H NMR (DMSO-d6): δ 3.01-3.09 (m, 1H), 3.57-3.63 (m, 1H), 4.79 (s, 2H), 5.17 (s, 2H), 5.21-5.24 (m, 1H), 6.91-6.95 (m, 1H), 7.44 (m, 2H), 7.66-7.69 (m, 2H), 8.07-8.09 (m, 2H).

reactant | 2-bromo-1-(4-chlorophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)\C=C/1\C(NC(S1)=O)=O)=O | C14H12BrNO5S
product | 4-Bromo-2-{3-[2-(4-chlorophenyl)-2-oxoethyl]-2,4-dioxothiazolidin-5-ylmethyl}phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CC1C(N(C(S1)=O)CC(=O)C1=CC=C(C=C1)Cl)=O | C20H15BrClNO6S
